US04483982
Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (I; Y=OCH3)
To 870 mg. (4.4 mmoles) of N-methylsaccharin and 0.95 ml. (10.89 mmoles) of methyl chloroacetate in 3 ml. of dimethylsulfoxide under nitrogen was added at the rate of 0.084 ml./minute 3.99 g. (20 mmoles) of potassium hexamethyl disilazane in 9.98 ml. of dimethylsulfoxide.

reactant | N-methylsaccharin | 4.4 mmoles | CN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H7NO3S
reactant | methyl chloroacetate | 10.89 mmoles | ClCC(=O)OC | C3H5ClO2
reactant | potassium hexamethyl disilazane | 20 mmoles | C[Si](N[Si](C)(C)C)(C)C.[K]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
